US07863302B2
2-Amino-4-isopropyl-thiazole-5-carboxylic acid ethyl ester
To a solution of 4-methyl-3-oxo-pentanoic acid ethyl ester (10 g, 63.2 mmol) in dichloromethane (150 mL) at 0° C. is added SO2Cl2 (5.64 mL, 69.5 mmol). The reaction mixture is stirred at ambient temperature for 1 hour. The reaction mixture is extracted with water (30 mL). To the aqueous layer is added 1,4-dioxane (60 mL) followed by thiourea (8.8 g, 63.2 mmol). The mixture is stirred at 80° C. overnight and cooled to room temperature. The reaction mixture is adjusted to pH 12 with conc. NH4OH and filtered. The filter cake is washed with water to give the title compound (12.4 g, 92%).

reactant | 4-methyl-3-oxo-pentanoic acid ethyl ester | 63.2 mmol, 10 g | C(C)OC(CC(C(C)C)=O)=O | C8H14O3
reactant | thiourea | 63.2 mmol, 8.8 g | NC(=S)N | CH4N2S
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-Amino-4-isopropyl-thiazole-5-carboxylic acid ethyl ester | 12.4 g, 92% | C(C)OC(=O)C1=C(N=C(S1)N)C(C)C | C9H14N2O2S
